US03947473
Trimethylhydroquinone was reacted with ethyl vinyl ketone by the procedure of Example 1 to give (±)-2-ethyl-6-hydroxy-2-methoxy-5,7,8-trimethylchroman as a beige powder, m.p. 96.5°-98.5° from methanol-H2O.

reactant | Trimethylhydroquinone | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | ethyl vinyl ketone | C(=C)C(=O)CC | C5H8O
reactant | methanol H2O | CO.O
product | (±)-2-ethyl-6-hydroxy-2-methoxy-5,7,8-trimethylchroman | C(C)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)OC | C15H22O3
